US05359068
2,5-Dichloro-4-(2-dimethylaminoethenyl)-nitrobenzene
2,5-Dichloro-4-methyl-nitrobenzene (50 g, 0.24 mol) was heated at reflux, in tetrahydrofuran (200 ml), with t-butoxy-bis(dimethylamino)methane (63.3 g, 0.364 mol) for 8 hours. The reaction mixture was cooled to room temperature and slowly poured into hexanes (3L) with stirring. The desired product was collected by filtration as a dark red solid, 36.9 g, 58% yield. mp 173°-5° C. NMR (CDCl3) δ 8.01 (s, 1), 7.32 (s, 1), 7.08 (d, 1), 5.27 (d, 1), 3.00 (s, 6). Analysis Calculated for C10H10N2O2Cl2 : C, 45.99; H, 3.86; N, 10.73, Found: C, 45.91; H, 3.72; N, 10.61.

reactant | 2,5-Dichloro-4-methyl-nitrobenzene | 0.24 mol, 50 g | ClC1=C(C=C(C(=C1)C)Cl)[N+](=O)[O-] | C7H5Cl2NO2
reactant | t-butoxy-bis(dimethylamino)methane | 0.364 mol, 63.3 g | C(C)(C)(C)OC(N(C)C)N(C)C | C9H22N2O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 2,5-Dichloro-4-(2-dimethylaminoethenyl)-nitrobenzene | 58% yield | ClC1=C(C=C(C(=C1)C=CN(C)C)Cl)[N+](=O)[O-] | C10H10Cl2N2O2
